US08937060B2
2,4-Dichloro-3-iodo-pyridine (D24)
To a solution of 2,4-dichloropyridine (5.2 g, 35.137 mmol) and diisopropylamine (3.911 g, 38.651 mmol) in dry THF (40 ml) cooled at −78° C. under a nitrogen atmosphere, was added n-butyllithium (24.157 ml, 38.651 mmol, 1.6 M in hexanes) dropwise. The resulting reaction mixture was stirred at −78° C. for 45 min. and then a solution of iodine (9.81 g, 38.651 mmol) in dry THF (20 ml) was added dropwise. The mixture was stirred at −78° C. for 1 h., allowed to warm to r.t., diluted with EtOAc and quenched with NH4Cl (aqueous sat. solution) and Na2S2O3 (aqueous sat. solution). The organic layer was separated, washed with NaHCO3 (aqueous sat. solution), dried (Na2SO4) and concentrated in vacuo. The crude product was purified by column chromatography (silica gel; Heptane/DCM up to 20% as eluent). The desired fractions were collected and concentrated in vacuo to yield intermediate compound D24 (7.8 g, 81%).

reactant | 2,4-dichloropyridine | 35.137 mmol, 5.2 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
reactant | diisopropylamine | 38.651 mmol, 3.911 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 38.651 mmol, 1.6 M, 24.157 ml | C(CCC)[Li]
reactant | iodine | 38.651 mmol, 9.81 g | II | I2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,4-Dichloro-3-iodo-pyridine | ClC1=NC=CC(=C1I)Cl | C5H2Cl2IN
